US07399867B2
2-(1,1-Dioxo-2,3-dihydro-1H-1λ6-benzo[b]thiophen-5-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
Dissolve 5-bromo-2,3-dihydro-benzo[b]thiophene 1,1-dioxide (2.0 g, 8.1 mmol) in DMSO (60 mL). Add bis(pinacolato)diboron (2.26 g, 8.9 mmol), PdCl2(dppf).CH2Cl2 (330 mg, 0.41 mmol), and potassium acetate (KOAc, 2.38 g, 24.3 mmol). Flush the flask with N2, and then heat the reaction mixture to 80° C. with stirring. Continue to heat the reaction mixture for 3 hours, and then cool to room temperature. Add water (100 mL) and extract the aqueous layer with EtOAc (3×100 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 10 to 50% ethyl acetate in hexanes) to give 1.4 g (59%) of the title compound.

reactant | 5-bromo-2,3-dihydro-benzo[b]thiophene 1,1-dioxide | 8.1 mmol, 2.0 g | BrC1=CC2=C(S(CC2)(=O)=O)C=C1 | C8H7BrO2S
reactant | bis(pinacolato)diboron | 8.9 mmol, 2.26 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH2Cl2 | 0.41 mmol, 330 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 24.3 mmol, 2.38 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(1,1-Dioxo-2,3-dihydro-1H-1λ6-benzo[b]thiophen-5-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1.4 g, 59% | O=S1(C2=C(CC1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C)=O | C14H19BO4S
